US04254260
To a solution of ethyl 2-ureidothiazol-4-ylacetate (3.1 g.) in a mixture of methanol (62 ml.) and water (41 ml.) was dropwise added 1 N potassium hydroxide aqueous solution (13.6 ml) with stirring under ice-cooling, and the solution was stirred for overnight at room temperature, and then the solvent was distilled off therefrom. The residue was dissolved in water (150 ml.), washed with ethyl acetate and then adjusted to pH 3.5 with 10% hydrochloric acid. Thus obtained aqueous layer was cooled with ice, and the precipitates were collected by filtration, washed with cold water (10 ml.) and then dried to give colorless crystals of 2-ureidothiazol-4-ylacetic acid (2.44 g.), mp 189° C. (dec.).

reactant | ethyl 2-ureidothiazol-4-ylacetate | 3.1 g | N(C(=O)N)C=1SC=C(N1)CC(=O)OCC | C8H11N3O3S
reactant | potassium hydroxide | 1 N, 13.6 ml | [OH-].[K+]
solvent | methanol | 62 ml | CO | CH4O
solvent | water | 41 ml | O | H2O
product | 2-ureidothiazol-4-ylacetic acid | 2.44 g | N(C(=O)N)C=1SC=C(N1)CC(=O)O | C6H7N3O3S
